US04423241
Preparation of 2,6-Dichlorobenzylideneaminooxy-N-methoxy-N-methylacetamide (Compound G)
A mixture of 3.0 gm. (0.031 mole) of N,O-dimethylhydroxylamine hydrochloride and 60 ml. of methanol was cooled in ice bath; then 6.3 gm. (0.062 mole) of triethylamine was stirred in. A solution of 4.1 gm. (0.015 mole) of 2,6-dichlorobenzylideneaminooxyacetyl chloride in toluene was added dropwise and with cooling and stirring. After one hour more at ice-bath temperature the reaction mixture was allowed to stand overnight at room temperature; then evaporate to dryness under reduced pressure. The residue was ground under water, separated, extracted with methylene chloride and the extract was treated with decolorizing carbon, then filtered. The filtrate, evaporated to dryness under reduced pressure, gave 3.1 gm. (69.1%) of a solid melting at 62°-72° C. The melt was turbid, however, and the crude product was extracted with hot n-heptane. The hot extract was passed through a Florisil* column; evaporation of the solvent left product melting at 76°-78° C. (clear).

reactant | N,O-dimethylhydroxylamine hydrochloride | 0.031 mole | Cl.CNOC
reactant | methanol | CO | CH4O
reactant | triethylamine | 0.062 mole | C(C)N(CC)CC | C6H15N
reactant | 2,6-dichlorobenzylideneaminooxyacetyl chloride | 0.015 mole | ClC(C(=O)Cl)ON=CC1=CC=CC=C1Cl | C9H6Cl3NO2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2,6-Dichlorobenzylideneaminooxy-N-methoxy-N-methylacetamide | ClC(C(=O)N(C)OC)ON=CC1=CC=CC=C1Cl | C11H12Cl2N2O3
